US04021470
To 65 g. of 1-octanol heated at 108° C. there was added 53.1 g. of N-methylisatoic anhydride in portions during 3.5 hours and the reaction mixture was further heated at 108° C. for 1.75 hours after addition was completed. The reaction mixture was distilled to remove unreacted octanol and to afford the n-octyl N-methylanthranilate as the liquid distillate fraction, b.p. 160°-168° C. at less than 0.1 mm pressure.

reactant | N-methylisatoic anhydride | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
solvent | 1-octanol | C(CCCCCCC)O | C8H18O
product | n-octyl N-methylanthranilate | CNC=1C(C(=O)OCCCCCCCC)=CC=CC1 | C16H25NO2
